US06683096B2
C. Preparation of 2-(2-{4-[1-(2-allyloxy-ethyl)-1H-indol-3-yl]-piperidin-1-yl}-ethoxy)-benzoic acid
To a suspension of 0.012 g (0.04 mmol) of a dispersion of 60% NaH in 0.5 mL of DMF, a solution of 0.042 g (0.01 mmol)of 2-(2-{4-[1-(2-hydroxy-ethyl)-1H-indol-3-yl]-piperidin-1-yl}-ethoxy)-benzoic acid in 0.5 mL of DMF was added. After stirring at room temperature for 30 minutes as solution of 0.014 g (0.12 mmol) of allyl bromide in 0.3 mL of DMF was added. The crude mixture was stirred at room temperature for 15 hours. The solvent was evaporated at reduced pressure and the crude mixture was dissolved in 1 mL of ethanol. 0.2 mL of an aqueous 2N NaOH solution were added and the mixture was heated at 60° C. for 3 hours. The solvent was removed under reduced pressure and after addition of 1 mL of water, the mixture was neutralised with 2N HCl and extracted with chloroform. The crude was purified by chromatography over silica gel affording 0.015 g (33% of yield) of the desired product.

reactant | NaH | [H-].[Na+]
reactant | 2-(2-{4-[1-(2-hydroxy-ethyl)-1H-indol-3-yl]-piperidin-1-yl}-ethoxy)-benzoic acid | 0.01 mmol, 0.042 g | OCCN1C=C(C2=CC=CC=C12)C1CCN(CC1)CCOC1=C(C(=O)O)C=CC=C1 | C24H28N2O4
reactant | allyl bromide | 0.12 mmol, 0.014 g | C(C=C)Br | C3H5Br
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | 2-(2-{4-[1-(2-allyloxy-ethyl)-1H-indol-3-yl]-piperidin-1-yl}-ethoxy)-benzoic acid | C(C=C)OCCN1C=C(C2=CC=CC=C12)C1CCN(CC1)CCOC1=C(C(=O)O)C=CC=C1 | C27H32N2O4
